US07241761B2
(b) 2-Piperazin-1-yl-quinoxaline hydrochloride
Prepared in analogy to example 1.6 (d) from 4-quinoxalin-2-yl-piperazine-1-carboxylic acid tert.-butyl ester and dioxane saturated with gaseous hydrochloric acid.

reactant | 4-quinoxalin-2-yl-piperazine-1-carboxylic acid tert.-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC2=CC=CC=C2N=C1 | C17H22N4O2
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-Piperazin-1-yl-quinoxaline hydrochloride | Cl.N1(CCNCC1)C1=NC2=CC=CC=C2N=C1 | InChI=1S/C12H14N4.ClH/c1-2-4-11-10(3-1)14-9-12(15-11)16-7-5-13-6-8-16;/h1-4,9,13H,5-8H2;1H
